US05064819
A suspension of 2.46 g of 3-aminopropylphosphonous acid in 20 ml of hexamethyldisilazane is heated to reflux under an inert gas for 24 hours after which a clear solution results. The excess hexamethyldisilazane is removed by distillation at atmospheric pressure under a slight positive pressure of inert gas to afford a colourless oil. The oil is cooled to circa 40° and treated with 0.64 g of anhydrous zinc oxide and 25 ml of (S)-(+)-1,2-epoxy-3-methyl-butane. An exothermic reaction occurs and the epoxybutane refluxes. Reflux is continued for 6 hours after which time thin layer chromatography indicates the reaction to be complete. The reaction mixture is filtered and the filtrate evaporated to dryness in vacuo at 40°. The residue is dissolved in water and stirred at room temperature for 1 hour and the water removed in vacuo to give an oily solid. This is dissolved in some 2.0M aqueous hydrochloric acid and washed with dichloromethane and ether. Removal of the water at 40° in vacuo affords a brown solid which is purified by ion-exchance chromatography on DOWEX® 50 W×8 (14-40 mesh) to give 3-aminopropyl[2-(S)-hydroxy-3-methyl-butyl]phosphinic acid, m.p. 187°-189°, [α]D20 =-14.5°.

reactant | 3-aminopropylphosphonous acid | 2.46 g | NCCCP(O)O | C3H10NO2P
reactant | (S)-(+)-1,2-epoxy-3-methyl-butane | 25 ml | O1C[C@@H]1C(C)C | C5H10O
reactant | epoxybutane | O1CC1CC | C4H8O
solvent | hexamethyldisilazane | 20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | hydrochloric acid | 2.0M | Cl | ClH
catalyst | zinc oxide | 0.64 g | [O-2].[Zn+2]
product | 3-aminopropyl[2-(S)-hydroxy-3-methyl-butyl]phosphinic acid | NCCCP(O)(=O)C[C@H](C(C)C)O | C8H20NO3P
